US04654365
A stirred mixture of 5-butyryl-6,7-dichloro-2,3-dihydro-2-benzofurancarboxylic acid (12.0 g, 0.04 mole), dimethylamine hydrochloride (4.3 g, 0.052 mole), para-formaldehyde (1.9 g, 0.063 mole) and acetic acid (4 drops) was heated on a steam bath for 21/2 hours. Dimethylformamide (35 ml) was added and heating was continued for 11/2 hours. The reaction mixture was poured into ice water, extracted with ether, washed with water and dried over magnesium sulfate. The ether was evaporated in vacuo and the residue triturated with butyl chloride (100 ml) to give 9.0 g of 6,7-dichloro-2,3-dihydro-5-(2-methylenebutyryl)-2-benzofurancarboxylic acid which melted at 148° C.

reactant | 5-butyryl-6,7-dichloro-2,3-dihydro-2-benzofurancarboxylic acid | 0.04 mole, 12.0 g | C(CCC)(=O)C=1C(=C(C2=C(CC(O2)C(=O)O)C1)Cl)Cl | C13H12Cl2O4
reactant | dimethylamine hydrochloride | 0.052 mole, 4.3 g | Cl.CNC
reactant | para-formaldehyde | 0.063 mole, 1.9 g | C=O | CH2O
catalyst | acetic acid | 4 drops | C(C)(=O)O | C2H4O2
solvent | Dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 6,7-dichloro-2,3-dihydro-5-(2-methylenebutyryl)-2-benzofurancarboxylic acid | 9.0 g | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C(CC)=C)=O)Cl | C14H12Cl2O4
